US07897607B2
5-Methoxy-3-methylquinazoline-2,4(1H,3H)-dione
A mixture of 2-Methoxy-N-methyl-6-[[(methylamino)carbonyl]amino]benzamide (200 mg, 0.843 mmol), 5% sodium hydroxide solution in water (8 ml) and ethanol (4 ml) was refluxed for 1 h. The solution was allowed to cool and then acidified with acetic acid. The aqueous solution was extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate, and concentrated under vacuum to afford 168 mg (97%) of the title compound.

reactant | 2-Methoxy-N-methyl-6-[[(methylamino)carbonyl]amino]benzamide | 0.843 mmol, 200 mg | COC1=C(C(=O)NC)C(=CC=C1)NC(=O)NC | C11H15N3O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 8 ml | O | H2O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 5-Methoxy-3-methylquinazoline-2,4(1H,3H)-dione | 168 mg, 97% | COC1=C2C(N(C(NC2=CC=C1)=O)C)=O | C10H10N2O3
